data/rdb19/train.csv
rxn,smiles,ea
907,[C:19]([C:20]([C:21]([H:22])[O:23][C:24](=[O:25])[C:26]([H:32])([H:33])[H:34])([H:30])[H:31])([H:27])([H:28])[H:29].[C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([C:5](=[O:6])[N:7]([H:17])[H:18])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:19]([C:20](=[C:21]([H:22])[O:23][C:24](=[O:25])[C:26]([H:32])([H:33])[H:34])[H:30])([H:27])([H:28])[H:29].[C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([C:5]=[O:6])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10].[N:7]([H:17])([H:18])[H:31],56.62626456056023
2361,[C:1]([C:2]([H:3])[H:4])([H:5])([H:6])[H:7].[C:8]([O:9][C:10](=[C:11]([H:16])[H:17])[H:15])([H:12])([H:13])[H:14]>>[C:1]([C:2]([H:3])([H:4])[O:9][C:10](=[C:11]([H:16])[H:17])[H:15])([H:5])([H:6])[H:7].[C:8]([H:12])([H:13])[H:14],59.47521667872206
4196,[C:16]([C:17]([C:18]([C:19]([H:29])([H:30])[H:31])[C:20](=[O:21])[O:22][C:23]([H:32])([H:33])[H:34])([H:27])[H:28])([H:24])([H:25])[H:26].[C:1]([O:2][C:3](=[O:4])[C:5](=[C:6]([H:11])[H:12])[C:7]([H:13])([H:14])[H:15])([H:8])([H:9])[H:10]>>[C:1]([H:8])([H:9])([H:10])[C:18]([C:17]([C:16]([H:24])([H:25])[H:26])([H:27])[H:28])([C:19]([H:29])([H:30])[H:31])[C:20](=[O:21])[O:22][C:23]([H:32])([H:33])[H:34].[O:2][C:3](=[O:4])[C:5](=[C:6]([H:11])[H:12])[C:7]([H:13])([H:14])[H:15],52.0842009545886
3530,[C:17]([C:18](=[O:19])[O:20][C:21](=[C:22]([H:27])[H:28])[H:26])([H:23])([H:24])[H:25].[C:1]([C:2]([C:3]([C:4]([H:11])([H:12])[H:13])[C:5]([H:14])([H:15])[H:16])([H:9])[H:10])([H:6])([H:7])[H:8]>>[C:1]([C:2](=[C:3]([C:4]([H:11])([H:12])[H:13])[C:5]([H:14])([H:15])[H:16])[H:10])([H:6])([H:7])[H:8].[H:9][O:19][C:18]([C:17]([H:23])([H:24])[H:25])[O:20][C:21](=[C:22]([H:27])[H:28])[H:26],42.0560587598593
1673,[C:15](=[C:16]([c:17]1[c:18]([H:26])[c:19]([H:27])[c:20]([H:28])[c:21]([H:29])[c:22]1[H:30])[H:25])([H:23])[H:24].[C:1]([C:2]1([H:12])[C:3]([H:4])([H:5])[O:7][C:6]1[N:8]([H:13])[H:14])([H:9])([H:10])[H:11]>>[C:1]([C:2]1=[C:6]([N:8]([H:13])[H:14])[O:7][C:3]1([H:4])[H:5])([H:9])([H:10])[H:11].[H:12][C:16]([C:15]([H:23])[H:24])([c:17]1[c:18]([H:26])[c:19]([H:27])[c:20]([H:28])[c:21]([H:29])[c:22]1[H:30])[H:25],33.38584141508909
4009,[C:1]([C:2]([C:3]([C:4]([H:15])([H:16])[H:17])([C:5]([H:18])([H:19])[H:20])[C:6](=[O:7])[O:8][C:9]([H:21])([H:22])[H:23])([H:13])[H:14])([H:10])([H:11])[H:12].[C:24]([C:25]([C:26]([H:27])[N:28]([C:29](=[O:30])[H:37])[H:36])([H:34])[H:35])([H:31])([H:32])[H:33]>>[C:1]([H:10])([H:11])[H:12].[C:2]([C:3]([C:4]([H:15])([H:16])[H:17])([C:5]([H:18])([H:19])[H:20])[C:6](=[O:7])[O:8][C:9]([H:21])([H:22])[H:23])([H:13])([H:14])[C:26]([C:25]([C:24]([H:31])([H:32])[H:33])([H:34])[H:35])([H:27])[N:28]([C:29](=[O:30])[H:37])[H:36],72.64519192249281
4935,[C:15]([C:16]([C:17]([C:18]([H:28])([H:29])[H:30])([N:19]([C:20](=[O:21])[H:32])[H:31])[H:27])([H:25])[H:26])([H:22])([H:23])[H:24].[C:1]([C:2]([C:3]([H:4])[O:5][C:6]([H:12])([H:13])[H:14])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:15]([C:16]([C:17]([C:18]([H:29])[H:30])([N:19]([C:20](=[O:21])[H:32])[H:31])[H:27])([H:25])[H:26])([H:22])([H:23])[H:24].[C:1]([C:2]([C:3]([H:4])([O:5][C:6]([H:12])([H:13])[H:14])[H:28])([H:10])[H:11])([H:7])([H:8])[H:9],25.87446299759904
1007,[C:14]([O:15][C:16](=[O:17])[C:18](=[C:19]([H:24])[H:25])[C:20]([H:26])([H:27])[H:28])([H:21])([H:22])[H:23].[C:1]([C:2]([C:3]([H:4])[H:5])([C:6](=[O:7])[O:8][H:13])[H:12])([H:9])([H:10])[H:11]>>[C:1]([C:2]([C:3]([H:4])([H:5])[O:17][C:16]([O:15][C:14]([H:21])([H:22])[H:23])[C:18](=[C:19]([H:24])[H:25])[C:20]([H:26])([H:27])[H:28])([C:6](=[O:7])[O:8][H:13])[H:12])([H:9])([H:10])[H:11],29.900568868906703
975,[C:14]([C:15]([C:16]([C:17]([H:25])([H:26])[H:27])([C:18]([H:28])([H:29])[H:30])[C:19]([H:31])([H:32])[H:33])([H:23])[H:24])([H:20])([H:21])[H:22].[C:1]([C:2]([C:3]([H:4])[H:5])([C:6](=[O:7])[O:8][H:13])[H:12])([H:9])([H:10])[H:11]>>[C:14]([C:15]([C:16]([C:17]([H:25])([H:26])[H:27])[C:19]([H:31])([H:32])[H:33])([H:23])[H:24])([H:20])([H:21])[H:22].[C:1]([C:2](=[C:3]([H:4])[H:5])[C:6](=[O:7])[O:8][H:13])([H:9])([H:10])[H:11].[H:12][C:18]([H:28])([H:29])[H:30],72.7607959024026
5173,[C:1]([C:2]([C:3]([C:4]([H:17])([H:18])[H:19])([c:5]1[c:6]([H:20])[c:7]([H:21])[c:8]([H:22])[c:9]([H:23])[c:10]1[H:24])[H:16])([H:14])[H:15])([H:11])([H:12])[H:13].[C:25]([C:26]([C:27]([H:28])[H:29])([N:30]([C:31](=[O:32])[H:38])[H:37])[H:36])([H:33])([H:34])[H:35]>>[C:1]([C:2]([C:3]([C:4]([H:17])([H:18])[H:19])([H:16])[C:27]([C:26]([C:25]([H:33])([H:34])[H:35])([N:30]([C:31](=[O:32])[H:38])[H:37])[H:36])([H:28])[H:29])([H:14])[H:15])([H:11])([H:12])[H:13].[c:5]1[c:6]([H:20])[c:7]([H:21])[c:8]([H:22])[c:9]([H:23])[c:10]1[H:24],72.11045743554132
